US08912186B2
4-Iodo-1,2-phenylenediamine (0.47 g) and 3-(1-naphthyl)glutaric anhydride (0.48 g) were dissolved in dichloromethane (6 ml) with heating. The dark solution was stirred at rt for 1 h. The precipitate formed was collected by suction filtration, washed with dichloromethane, and dried in vacuo to give a mixture of regioisomeric amides (0.69 g) as beige coloured solid. This solid was dissolved in 4M HCl in 1,4-dioxane (3 ml) and the dark solution was heated to reflux for 1 h. All volatiles were removed at the water aspirator and the amorphous residue is crystallised from acetone/methanol to provide 4-(5-iodo-2-benzimidazolyl)-3-(1-naphthyl)butanoic acid HCl (0.54 g) as light grey solid.

reactant | 4-Iodo-1,2-phenylenediamine | 0.47 g | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(1-naphthyl)glutaric anhydride | 0.48 g | C1(=CC=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-(5-iodo-2-benzimidazolyl)-3-(1-naphthyl)butanoic acid HCl | 0.54 g | Cl.IC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=CC3=CC=CC=C23)C=C1 | InChI=1S/C21H17IN2O2.ClH/c22-15-8-9-18-19(12-15)24-20(23-18)10-14(11-21(25)26)17-7-3-5-13-4-1-2-6-16(13)17;/h1-9,12,14H,10-11H2,(H,23,24)(H,25,26);1H
